US07282588B2
4-[2-methyl-4-(4-nitrophenyl)-1,3-oxazol-5-yl]-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine
Following the procedure described for Intermediate 6 with 5-bromo-2-methyl-4-(4-nitrophenyl)-1,3-oxazole and [(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine provided the title compound. ESMS [M+H]+: 476.2

reactant | 5-bromo-2-methyl-4-(4-nitrophenyl)-1,3-oxazole | BrC1=C(N=C(O1)C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H7BrN2O3
reactant | [(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | CC1=CC=C(C=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2B2OC(C(O2)(C)C)(C)C | C20H23BN2O4S
product | 4-[2-methyl-4-(4-nitrophenyl)-1,3-oxazol-5-yl]-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine | CC=1OC(=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C24H18N4O5S
